US04423047
2-(trans-Styryl)sulfonyl-5-chloropyrimidine
Sodium hydride dispersion (55-60%, 2 mmol) was further dispersed in benzene (4 ml) and added gradually to a solution of diethyl (5-chloropyrimidin-2-sulfonyl)methanephosphonate (0.66 g, 2 mmol) in benzene (4 ml). The mixture was stirred for 10 min before a solution of benzaldehyde (0.21 g, 2 mmol) in benzene (2 ml) was added. The resultant mixture was stirred at room temperature overnight before extraction with water. Evaporation of the dried (MgSO4) benzene solution left the product which was recrystallised from ethanol; yield 0.20 g 35%, m.p. 150° C. 1H NMR (CDCl3): δ7.24 and 7.90 (2H-vinyl, Jvic 16 Hz), 7.60 (Ph, m.), 8.90 (2H-4,6).

reactant | Sodium hydride | [H-].[Na+]
reactant | diethyl (5-chloropyrimidin-2-sulfonyl)methanephosphonate | 2 mmol, 0.66 g | ClC=1C=NC(=NC1)S(=O)(=O)CP(OCC)(=O)OCC | C9H14ClN2O5PS
reactant | benzaldehyde | 2 mmol, 0.21 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | O | H2O
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 2-(trans-Styryl)sulfonyl-5-chloropyrimidine | C(=C\C1=CC=CC=C1)/S(=O)(=O)C1=NC=C(C=N1)Cl | C12H9ClN2O2S
